US05739336
A mixture of methyl 1,3-benzodioxole-5-carboxylate (9.3 g, 51 mmol) acetic acid (25 mL) and fuming nitric acid (50 mL) was stirred approximately 15 minutes and then poured into ice-water (600 mL). The mixture was allowed to stand 1 hour in an ice-bath and the solids were collected, stirred with water and recollected to give methyl 6-nitro-1,3-benzodioxole-5-carboxylate.

reactant | methyl 1,3-benzodioxole-5-carboxylate | 51 mmol, 25 mL, 9.3 g | O1COC2=C1C=CC(=C2)C(=O)OC | C9H8O4
reactant | nitric acid | 50 mL | [N+](=O)(O)[O-] | HNO3
product | methyl 6-nitro-1,3-benzodioxole-5-carboxylate | [N+](=O)([O-])C=1C(=CC2=C(OCO2)C1)C(=O)OC | C9H7NO6
